US09340556B2
To a mixture of 2,3-dimethoxyaniline (20 g, 131 mmol) in Ethanol (50 mL) was added diethyl 2-(ethoxymethylene)malonate (26.2 mL, 131 mmol). The mixture was heated at 80° C. for 1 h. LCMS indicated completion of the reaction. The mixture was concentrated in vacuo to remove ethanol, and washed with hexane to afford diethyl 2-(((2,3-dimethoxyphenyl)amino)methylene)malonate (38 g, 118 mmol, 90% yield) as a white solid. This crude mixture was directly used in next step. LCMS: (M+H)+: 324.2.

reactant | 2,3-dimethoxyaniline | 131 mmol, 20 g | COC1=C(N)C=CC=C1OC | C8H11NO2
reactant | diethyl 2-(ethoxymethylene)malonate | 131 mmol, 26.2 mL | C(C)OC=C(C(=O)OCC)C(=O)OCC | C10H16O5
solvent | Ethanol | 50 mL | C(C)O | C2H6O
product | diethyl 2-(((2,3-dimethoxyphenyl)amino)methylene)malonate | 118 mmol, 38 g, 90% yield | COC1=C(C=CC=C1OC)NC=C(C(=O)OCC)C(=O)OCC | C16H21NO6
